* C:\Users\malen\Desktop\filtroFinal\TC-TPFF\simulaciones\sim_etapa6.asc
XU1 0 N001 +vcc -vcc N005 TL084
XU2 0 N003 +vcc -vcc vo TL084
XU3 0 N004 +vcc -vcc N002 TL084
R3 N001 N006 180k
C1 N005 N001 1n
C2 N002 N004 1n
R7 N003 N006 180k
R4 N003 N005 186k
R8 N004 N006 180k
R5 vo N003 205k
R6 N004 vo 178k
R1 N002 N001 1133
R2 N005 N001 186k
V1 +vcc 0 15
V2 0 -vcc 15
V3 N006 0 ac 1
.inc TL084.MOD
.ac dec 500 100 5Meg
.backanno
.end
